US06150373
A mixture of 2.6 g (5 mmol) of 4-(3-(2-(tert-butyldiphenylsilyloxy)ethyl)phenylamino)-5-formyl-2-methylthiopyrimidine and 0.63 ml (722 mg, 5.1 mmol) of 2-chloro-6-methylaniline in 80 ml of toluene was treated with 170 mg (0.9 mmol) of 4-toluenesulfonic acid monohydrate and then heated at reflux with azeotropic removal of water for 2 hours. The mixture was cooled and evaporated. The residue was dissolved in 20 ml of tetrahydrofuran and added dropwise to a solution of 5 ml (5 mmol) of lithium aluminium hydride (1M solution in tetrahydrofuran) in a further 30 ml of tetrahydrofuran. After stirring for 1 hour the reaction was quenched by the cautious dropwise addition of 1.5 ml of water, 2 ml of 2M aqueous sodium hydroxide and 2.5 ml of water. The mixture was filtered through a filter aid and the filtrate evaporated to give 3.3 g (100%) of 4-[3-(2-(tert-butyldiphenylsilyloxy)ethyl)phenyl]amino-5-(2-chloro-6-methylanilino)methyl-2-methylthiopyrimidine as a yellow oil which was used without further purification. [Mass spectrum (ESI) MH+ =653].

reactant | 4-(3-(2-(tert-butyldiphenylsilyloxy)ethyl)phenylamino)-5-formyl-2-methylthiopyrimidine | 5 mmol, 2.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)NC1=NC(=NC=C1C=O)SC | C30H33N3O2SSi
reactant | 2-chloro-6-methylaniline | 5.1 mmol, 0.63 ml, 722 mg | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | 4-toluenesulfonic acid monohydrate | 0.9 mmol, 170 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | lithium aluminium hydride | 5 mmol, 1M, 5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[3-(2-(tert-butyldiphenylsilyloxy)ethyl)phenyl]amino-5-(2-chloro-6-methylanilino)methyl-2-methylthiopyrimidine | 3.3 g, 100% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)NC1=NC(=NC=C1CNC1=C(C=CC=C1C)Cl)SC | C37H41ClN4OSSi
